Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Intubation & Mechanical Ventilation (Extubated)
Temporary Pacer Placement
CVL Insertion

 
History of Present Illness:
___ with COPD who has been admitted 9 times since ___ for 
dyspnea, CAD, atrial fibrillation on apixaban who presented with 
shortness of breath since being discharged on ___. She was 
discharged home with services.  
 
Mrs. ___ has significant COPD, with recent PFTs on ___ 
showing severely reduced FEV1 and moderately reduced FEV1/FVC. 
She was generally feeling better since discharged on ___, 
continuing her prednisone (at 40mg today) until the day prior to 
presentation. She subsequently began to become short of breath, 
especially with exertion, and developed a cough productive of 
brown sputum. No fever, chills, nausea, vomiting, diarrhea. She 
sleeps with three pillows laying on her side, which is stable. 
Her secondary concern is that she is having trouble walking due 
to pain in her R-hip to R-thigh with weight bearing. This was 
new. No falls or trauma. No loss of sensation, numbness, 
weakness, urinary or fecal incontinence or difficulty urinating. 
 
 
In the ED, initial vital signs were: 99.0 80 116/66 24 98% Nasal 
Cannula  
 - Exam was notable for: diffuse ronchi worst in the RLL, 
tripoding  
 - Labs were notable for: flu swab negative, WBC 7.5 with left 
shift, CBC otherwise WNL, BNP 425, lactate 3.0, U/A cloudy with 
30 protein but otherwise negative, BUN/Cr ___  
 - Imaging: CXR with mild bibasilar atelectasis, though ED 
physicians concerned for pneumonia on lateral view  
 - The patient was given: 1g Vancomycin, 2g cefepime, 500 mg PO 
azithromycin, 1 duoneb, 20 mg prednisone (total 60 mg that day)  

 - Consults: none  
 Vitals prior to transfer were: 98.2 87 148/76 18 92% RA  
 
Upon arrival to the floor, Mrs. ___ stated her breathing 
was slightly better, but she continued to have shortness of 
breath. She felt as though her ears are clogged up, and this was 
her as well. She stated she has been taking all her medications 
as prescribed.  
 
Past Medical History:
- COPD/Asthma on home 2L O2
- Atypical Chest Pain
- Hypertension
- Hyperlipidemia
- Osteroarthritis
- Atrial Fibrillation on Apixaban
- Anxiety
- Cervical Radiculitis
- Cervical Spondylosis
- Coronary Artery Disease
- Headache
- Herpes Zoster
- GI Bleeding
- Peripheral Vascular Disease s/p bilateral iliac stents
- s/p hip replacement
 
Social History:
___
Family History:
Mother with asthma and hypertension. Father with colon cancer. 
Brother with leukemia.

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
==================================
 VITALS: 98.4 140/83 77 22 94% RA  
 GENERAL: breathing somewhat heavily with audible wheeze  
 HEENT - no pallor or icterus, no oropharyngeal lesion, no sinus 
tenderness  
 NECK: Supple, JVP flat  
 CARDIAC: RRR, unable to appreciate any m/r/g due to breathing  
 PULMONARY: diffuse wheezes and ronchi  
 ABDOMEN: NT/ND, +BS  
 EXTREMITIES: 1+ lower extremity edema up shins, patient is 
sitting ___ style and I do not appreciate tenderness at the R 
hip  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, moving all extremities with purpose  
 
PHYSICAL EXAMINATION ON DISCHARGE:
==================================
 HR and RR went to zero on continuous telemetry. Patient did not 
respond to vocal or tactile stimuli. Pupils were non-reactive to 
light. She had no heart or lung sounds for > 1 minute on 
auscultation. She was pronounced dead at 0515. Family was 
notified, they had previously declined an autopsy. 
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 04:38PM BLOOD WBC-7.5 RBC-4.39 Hgb-12.3 Hct-38.6 MCV-88 
MCH-28.0 MCHC-31.9* RDW-18.0* RDWSD-56.9* Plt ___
___ 04:38PM BLOOD Neuts-92.1* Lymphs-3.9* Monos-3.5* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-6.91* AbsLymp-0.29* 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.00*
___ 04:38PM BLOOD Plt ___
___ 04:38PM BLOOD Glucose-143* UreaN-20 Creat-1.1 Na-135 
K-3.5 Cl-91* HCO3-29 AnGap-19
___ 04:38PM BLOOD ALT-50* AST-41* AlkPhos-73 TotBili-0.3
___ 04:38PM BLOOD proBNP-425
___ 04:38PM BLOOD Albumin-4.4 Calcium-10.3 Phos-3.6 Mg-2.0
___ 10:40AM BLOOD ___ pO2-130* pCO2-41 pH-7.42 
calTCO2-28 Base XS-2 Comment-GREEN TOP
___ 04:44PM BLOOD Lactate-3.0*

LABS ON DISCHARGE:
==================
___ 04:15AM BLOOD WBC-13.4* RBC-2.42* Hgb-7.0* Hct-22.9* 
MCV-95 MCH-28.9 MCHC-30.6* RDW-17.5* RDWSD-56.8* Plt ___
___ 04:15AM BLOOD Glucose-94 UreaN-15 Creat-0.6 Na-138 
K-4.2 Cl-97 HCO3-37* AnGap-8
___ 04:15AM BLOOD Calcium-8.3* Phos-3.0 Mg-2.0

SELECT IMAGING:
===============
___ CXR:  
COMPARISON: ___  
FINDINGS:  
 Heart size is mildly enlarged. There is mild unfolding of the 
thoracic aorta. Cardiomediastinal silhouette and hilar contours 
are otherwise unremarkable. There is mild bibasilar atelectasis. 
Lungs are otherwise clear. Pleural surfaces are clear without 
effusion or pneumothorax. Focus of air seen under the right 
hemidiaphragm, likely represents colonic interposition.  
IMPRESSION:No acute cardiopulmonary abnormality.  

___ RUE U/S:
 IMPRESSION: 4 cm acute deep vein thrombosis noted within the 
mid right brachial vein as detailed above. 

___ CXR:
 IMPRESSION: The endotracheal tube tip is 6 cm above the carina. 
 Nasogastric tube tip is beyond the GE junction and off the edge 
of the film.  A left central line is present in the tip is in 
the mid SVC.  A pacemaker is noted on the right in the lead 
projects over the right ventricle.  There is probable scarring 
in both lung apices.  There are no new areas of consolidation.  
There is upper zone redistribution and cardiomegaly suggesting 
pulmonary venous hypertension. There is no pneumothorax. 
 
Brief Hospital Course:
___ hx severe COPD, AFib, CAD, HTN, HLD, recent hospitalizations 
for recurrent COPD exacerbations over the last several months, 
who presented with dyspnea and increased wheezing secondary to 
severe COPD. 

She was treated for her COPD with nebulizers and steroids, but 
continued to decline eventually suffering a PEA arrest thought 
due to hypoxemia requiring endotracheal intubation and 
mechanical ventilation. A temporary pacemaker was placed for 
periods of bradycardia that may also have contributed to her PEA 
arrest (versus being a manifestation of severe hypoxemia/severe 
hypercarbia preceding her arrest). She made a cognitive recovery 
but was unable to be successfully weaned from her ventilator. 
She had capacity and was able to make it understand that she did 
not wish: continued intubation & mechanical ventilation; 
re-intubation and mechanical ventilation once extubated; or, 
positive non-invasive pressure ventilation. After extensive 
discussions with her and her family, she was transitioned to 
DNR/DNI and comfort-oriented care. She was extubated to spend 
quality time with her family before passing from respiratory 
failure on the morning of ___ at 0515. Autopsy was declined 
by family.

She was incidentally found to have a RUE DVT that was treated 
with heparin gtt (which was also used for anticoagulation for 
her atrial fibrillation; she was temporarily transitioned to 
argatroban for concern of HIT, but PF4 antibodies returned at 
very low OD, making this diagnosis unlikely). She was also 
treated for an acute sinusitis with Augmentin during her 
hospital stay. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Theophylline SR 300 mg PO BID 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY prophylaxis for long 
term steroid use 
6. Ranitidine 300 mg PO DAILY 
7. PredniSONE 40 mg PO DAILY 
8. Lorazepam 0.5 mg PO Q8H:PRN Insomnia, anxiety, vertigo 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
11. Ipratropium Bromide Neb 1 NEB IH Q6H Wheezing 
12. Hydrochlorothiazide 50 mg PO DAILY 
13. Guaifenesin ___ mL PO Q4H:PRN cough 
14. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
15. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
16. Ferrous Sulfate 325 mg PO DAILY 
17. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
18. albuterol sulfate 90 mcg/actuation inhalation Q4H 
19. Apixaban 5 mg PO BID 
20. Aspirin 81 mg PO DAILY 
21. Atorvastatin 10 mg PO QPM 
22. Diltiazem Extended-Release 240 mg PO BID 
23. Docusate Sodium 100 mg PO BID 
24. Sodium Chloride Nasal ___ SPRY NU QID:PRN nasal discomfort 
25. Morphine Sulfate (Oral Solution) 2 mg/mL 5 mg PO Q4H:PRN 
shortness of breath 
26. Budesonide Nasal Inhaler 180 mcg Other DAILY 

 
Discharge Medications:
None.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
s/p PEA Arrest 
Respiratory Failure
COPD
Sinusitis
RUE DVT

SECONDARY DIAGNOSES:
Atrial fibrillation
Hypertension
CAD
 
Discharge Condition:
Deceased. 
 
Discharge Instructions:
N/A
 
Followup Instructions:
___